US07199135B2
A mixture of 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide (50.0 mg, 2.0 mmol), N-(3-bromopropyl)-2,2-diphenylacetamide (64.2 mg, 0.2 mmol), K2CO3 (55.0 mg, 4.0 mmol), and Nal (45.0 mg, 0.3 mmol) in 2 mL of DMF was stirred at room temperature for 10 minutes followed by heating to 80–90° C. for 12 h. The reaction mixture was cooled to room temperature and purified by preparative TLC (silica gel, EtOAc/NH3 (2 M in MeOH); 95:5) to afford N-[4-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)phenyl]-2-methylpropanamide as a colorless oil (15.7 mg, 32%): ESMS m/e: 498.3 (M+H)+.

reactant | 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide | 2.0 mmol, 50.0 mg | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
reactant | N-(3-bromopropyl)-2,2-diphenylacetamide | 0.2 mmol, 64.2 mg | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
reactant | K2CO3 | 4.0 mmol, 55.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 0.3 mmol, 45.0 mg | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[4-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)phenyl]-2-methylpropanamide | 15.7 mg, 32% | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC=C(C=C1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H39N3O2
